US06110952
A solution of 2,4-dinitro-3-ethylanisole (23.7 mmol) in methanol (200 mL) is treated with stannous chloride (83.0 mmol). A reflux condenser is attached and the mixture is heated with an oil bath to 45° C. for two hours. The mixture is cooled to room temperature and poured over a saturated sodium carbonate solution (300 mL). The mixture is extracted with methylene chloride (400 mL). The methylene chloride layer is dried over magnesium sulfate and concentrated under reduced pressure to yield the crude product. This material is purified by chromatography (silica gel, 30% ethyl acetate/hexanes) to afford 4-amino-3-ethyl-2-nitroanisole.

reactant | 2,4-dinitro-3-ethylanisole | 23.7 mmol | [N+](=O)([O-])C1=C(C=CC(=C1CC)[N+](=O)[O-])OC | C9H10N2O5
reactant | sodium carbonate | 300 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 200 mL | CO | CH4O
product | 4-amino-3-ethyl-2-nitroanisole | NC1=C(C(=C(C=C1)OC)[N+](=O)[O-])CC | C9H12N2O3
